US05567843
A 11.1-gram portion of the 2-(m-nitrophenyl)-5-nitrobenzoxazole is dissolved in 200 milliliters of n-propanol. A 10% palladium-on-carbon catalyst (2.0 grams) is added, and the mixture stirred under nitrogen. The mixture is heated to 70° C., and hydrogen gas is bubbled into the mixture until substantially all the nitro groups have been reduced to primary amine groups, as indicated by liquid chromatography. The catalyst is then filtered off and the remaining solution added to water. The solvent and water are then evaporated off to yield 2-(m-aminophenyl)-5-aminobenzoxazole.

reactant | 2-(m-nitrophenyl)-5-nitrobenzoxazole | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
solvent | n-propanol | 200 milliliters | C(CC)O | C3H8O
catalyst | palladium-on-carbon | 2.0 grams | [Pd] | Pd
product | 2-(m-aminophenyl)-5-aminobenzoxazole | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)N | C13H11N3O
